US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(4-dimethylamino-benzenesulfonylamino)-ethyl]-phenyl ester
To a stirred solution of (4-bromo-phenyl)-dimethylamine (4.02 g, 20 mmol) in THF (25 mL) was added dropwise 1.57 M solution in hexanes n-BuLi (11.5 mL, 18 mmol) over a 5-min period at −78° C. The mixture was stirred at −78° C. for 15 min. Then gaseous sulphur dioxide (ca. 5 g) was added causing an immediate precipitation. The mixture was allowed to warm to room temperature and stirred for 1 h. The precipitated lithium sulfinate was isolated by filtration under N2 (g), washed with THF (20 mL) and dried in vacuo providing 2.99 g (87%) of lithium; 4-dimethylamino-benzenesulfinate as a bluegreen solid. This lithium sulfinate (65 mg, 0.34 mmol) was suspended in CH2Cl2 (1 mL) and stirred with NCS (45 mg, 0.34 mmol) for 10 min at rt. A solution of N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester as its TFA salt (0.26 mmol) in CH2Cl2 (1.5 mL) was added together with DIPEA (0.90 mmol). The mixture was stirred at rt for 16 h and quenched with HOAc (2 mL) and water (2 mL). Extraction with CH2Cl2 and drying of the combined organic extracts gave the crude product which was purified by preparative HPLC (Gilson). This gave 37 mg (31%) of the title compound as an oil.

reactant | 4-dimethylamino-benzenesulfinate | CN(C1=CC=C(C=C1)S(=O)[O-])C
reactant | NCS | 0.34 mmol, 45 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester | NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H18N2O2
reactant | TFA | 0.26 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DIPEA | 0.90 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | Methyl-phenyl-carbamic acid 4-[2-(4-dimethylamino-benzenesulfonylamino)-ethyl]-phenyl ester | CN(C1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)C | C24H27N3O4S
